US07514507B2
1.555 g (manufactured by DAINIPPON INK & CHEMICALS Co., Ltd., “EXA7335”, 3.2 mmol) of 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene, 0.238 g (0.8 mmol) of 4,4′-diglycidyloxybiphenyl, 0.67 g (3.6 mmol) of 4,4′-dihydroxybiphenyl and 0.0106 g (0.02 mmol) of ethyltriphenylphosphonium acetate in a 70% methanol solution were reacted for 4 hours by stirring while heating to 160° C. in 2.463 g of N,N-dimethylacetamide under a nitrogen atmosphere. After cooling, a pale yellow transparent semi-solid reaction solution was diluted with 11.495 g of N,N-dimethylacetamide and then added dropwise in ice. The resulting white massive precipitate was suction-filtered, washed with ice water and then boiled in 200 ml of water for 30 minutes while vigorously stirring. After cooling, the precipitate obtained by decantation was ground and the powered precipitate was washed with water and methanol, and then vacuum dried at 60° C. to obtain a xanthene-biphenylene copolymer type linear epoxy resin. The amount of the resulting xanthene-biphenylene copolymer type linear epoxy resin was 2.33 g and the yield was 95%.

reactant | 2,7-diglycidyloxy-1,3,4,5,6,8-hexamethyl-9-phenylxanthene | 3.2 mmol, 1.555 g | C(C1CO1)OC1=C(C=2C(C3=C(C(=C(C(=C3OC2C(=C1C)C)C)C)OCC1CO1)C)C1=CC=CC=C1)C | C31H34O5
reactant | 4,4′-diglycidyloxybiphenyl | 0.8 mmol, 0.238 g | C(C1CO1)OC1=CC=C(C=C1)C1=CC=C(C=C1)OCC1CO1 | C18H18O4
reactant | 4,4′-dihydroxybiphenyl | 3.6 mmol, 0.67 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | ethyltriphenylphosphonium acetate | 0.02 mmol, 0.0106 g | C(C)(=O)[O-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | N,N-dimethylacetamide | 2.463 g | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 11.495 g | CN(C(C)=O)C | C4H9NO
solvent | methanol | CO | CH4O
product | xanthene biphenylene | yield was 95% | C1=CC=CC=2OC3=CC=CC=C3CC12.C1=CC=CC=2C3=CC=CC=C3C12 | InChI=1S/C13H10O.C12H8/c1-3-7-12-10(5-1)9-11-6-2-4-8-13(11)14-12;1-2-6-10-9(5-1)11-7-3-4-8-12(10)11/h1-8H,9H2;1-8H
